US08877760B2
To a mixture of 3,5-dichloropyrazine-2-carbonitrile (500 mg, 2.84 mmol) and D-valinamide HCl salt (476 mg, 3.12 mmol) in AcCN (10 mL) was added DIPEA (1.11 mL, 6.25 mmol). After stirring at room temperature for 4 h, it was diluted with EtOAc, washed with sat. NaHCO3, organic layer was separated and washed with brine, dried and concentrated to give (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-3-methylbutanamide (740 mg). Step 2: To a mixture of (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-3-methylbutanamide (100 mg, 0.394 mmol) in Dioxane (2 mL) was added 3-aminoquinoline (71 mg, 0.492 mmol), Pd(OAc)2 (18 mg, 0.079 mmol), BINAP (49 mg, 0.079 mmol) and K2CO3 (163 mg, 1.18 mmol). After heating at 95° C. for 5 h, the mixture was filtered, the filtrate was concentrated and purified by preparative HPLC to give (R)-2-(5-cyano-6-(quinolin-3-yl)pyrazin-2-ylamino)-3-methylbutanamide (113 mg).

reactant | (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-3-methylbutanamide | 0.394 mmol, 100 mg | ClC1=C(N=CC(=N1)N[C@@H](C(=O)N)C(C)C)C#N | C10H12ClN5O
reactant | 3-aminoquinoline | 0.492 mmol, 71 mg | NC=1C=NC2=CC=CC=C2C1 | C9H8N2
reactant | BINAP | 0.079 mmol, 49 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | K2CO3 | 1.18 mmol, 163 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | Dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.079 mmol, 18 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (R)-2-(5-cyano-6-(quinolin-3-yl)pyrazin-2-ylamino)-3-methylbutanamide | 113 mg | C(#N)C=1N=CC(=NC1C=1C=NC2=CC=CC=C2C1)N[C@@H](C(=O)N)C(C)C | C19H18N6O
